* OVERALL BEST CANDIDATE: 00_Phase_3_277V_Lighting_to_3_3V_Logic_Buck_g3_cand1_b6
* FITNESS SCORE: 0.8281
*
* Generated: 2026-06-08T13:52:00
* Constraint: Phase 3: 277V Lighting to 3.3V Logic (Buck)
*   vin_min = 250
*   vin_max = 300
*   vout_target = 3.3
*   efficiency_target = 0.92
*   power_in = 200
* Candidate: 7 of 12
* Grouped name: g3_cand1
*
* 250V to 3.3V interleaved 3-phase buck, 200W
Vin in 0 250
M1 in gate1 sw1 0 NMOS W=1 L=1
M2 in gate2 sw2 0 NMOS W=1 L=1
M3 in gate3 sw3 0 NMOS W=1 L=1
D1 0 sw1 DIODE
D2 0 sw2 DIODE
D3 0 sw3 DIODE
L1 sw1 out 10u
L2 sw2 out 10u
L3 sw3 out 10u
C1 out 0 470u
Rload out 0 0.0545
Vgate1 gate1 0 PULSE(0 12 0 1n 1n 5.8u 10u)
Vgate2 gate2 0 PULSE(0 12 3.87u 1n 1n 5.8u 10u)
Vgate3 gate3 0 PULSE(0 12 7.74u 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 10m
.save V(*) I(*)
.end
